US06100405
(7-benzothiazol-2-yl-9,9-diethylfluoren-2-vl)diphenylamine
A mixture of 2-(9,9-diethyl-7-bromo-2-) fluorenyl benzothiazole (6.6 g., 0.015 mol.), potassium carbonate (10.3 g.,0.0746 mol.), diphenylamine (4.5 g. 0.0376 mol.), potassium iodide (9.6 g. 0.0173 mol.), copper bronze (2.0 g., 0.0317 mol.), copper (I) iodide (1.5 g., 0.0079 mol.), 18-crown-6 (0.96 g., 0.0036 mol.),and 1,2-dichlorobenzene (45 ml.) was kept at 180-182° C. for 20 hours, cooled and filtered. The filtrate was concentrated and the residue was transferred to a column of silica gel. Elution with heptane gave the product, 3.6 g.(45.5% yield), m.p. 175-178.4° C. Recrystallization from 9:1 heptane-toluene raised the m.p. to 178-180° C. Mass Spec: m/z 522, (M+). Analysis calculated for C36H30N2S: C, 82.76; H, 5.79; N, 5.36; S, 6.12. Found: C, 82.41; H, 5.52; N, 5.25; S, 5.99.

reactant | fluorenyl benzothiazole | 0.015 mol, 6.6 g | C1(=CC=CC=2C3=CC=CC=C3CC12)C=1SC2=C(N1)C=CC=C2 | C20H13NS
reactant | potassium carbonate | 0.0746 mol, 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | diphenylamine | 0.0376 mol, 4.5 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium iodide | 0.0173 mol, 9.6 g | [I-].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 1,2-dichlorobenzene | 45 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper bronze | 0.0317 mol, 2.0 g | [Cu] | Cu
catalyst | copper (I) iodide | 0.0079 mol, 1.5 g | [Cu]I
product | (7-benzothiazol-2-yl-9,9-diethylfluoren-2-vl)diphenylamine | 45.5% yield | S1C(=NC2=C1C=CC=C2)C2=CC=C1C=3C=CC(=CC3C(C1=C2)(CC)CC)N(C2=CC=CC=C2)C2=CC=CC=C2 | C36H30N2S
